US04243806
A mixture of 12.9 parts of N1 -butyl-4-[4(diphenylmethyl)-1-piperazinylmethyl]-1,2-benzenediamine, 4.6 parts of ethyl 2-hydroxyethanimidate hydrochloride and 100 parts of acetic acid is stirred overnight at room temperature. The whole is heated to reflux and stirring is continued for 3 hours at reflux temperature. The solvent is evaporated in vacuo and the residue is stirred in water. The free base is liberated in the conventional manner with ammonium hydroxide and extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The fractions with the highest Rf-value are collected and the eluent is evaporated. The residue is crystallized from 21 parts of 2,2'-oxybispropane. The product is filtered off, washed with 2,2'-oxybispropane and dried, yielding 3.5 parts (22.8%) of {1-butyl-5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1H-benzimidazol-2-ylmethyl}acetate; mp. 151.2° C.

reactant | N1 -butyl-4-[4(diphenylmethyl)-1-piperazinylmethyl]-1,2-benzenediamine | C(CCC)NC=1C(=CC(=CC1)CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)N | C28H36N4
reactant | ethyl 2-hydroxyethanimidate hydrochloride | Cl.OCC(OCC)=N
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | {1-butyl-5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1H-benzimidazol-2-ylmethyl}acetate | 22.8% | C(CCC)N1C(=NC2=C1C=CC(=C2)CN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)COC(C)=O | C32H38N4O2
